US04835246
POLYMERIZATION OF 4,6-DIAMINO-1,3-BENZENEDIOL
4,6-Diamino-1,3-benzenediol dihydrochloride (2.1279 g, 10.0 mmol), 2-benzothiazole terephthalic acid (2.9891 g, 10.0 mmol) and 9.96 g of polyphosphoric acid (77% P2O5) were placed in a resin flask equipped with a mechanical stirrer, nitrogen inlet/outlet tubes, a vacuum connector and a side opening on the resin flask. The solution was heated at 90° C. in vacuo for 20 hours for dehydrochlorination. The reaction mixture was cooled to 50° C., then 6.04 g of P2O5 was added, in vacuo, thereby raising the polymer concentration to 18%. After adding the P2O5, heating was resumed. The mixture was heated at 174° C. for 16 hours, then at 190° C. for 24 hours. Work-up, as in the preceeding Example, gave 3.2 g of polymer with [N]=4.1 dl/g, methanesulfonic acid at 30° C.

reactant | 4,6-Diamino-1,3-benzenediol dihydrochloride | 10.0 mmol, 2.1279 g | Cl.Cl.NC1=C(C=C(C(=C1)N)O)O
reactant | 2-benzothiazole terephthalic acid | 10.0 mmol, 2.9891 g | S1C(=NC2=C1C=CC=C2)C2=CC(=CC=C2C(=O)O)C(=O)O | C15H9NO4S
reactant | P2O5 | 6.04 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
product | 4,6-DIAMINO-1,3-BENZENEDIOL | NC1=C(C=C(C(=C1)N)O)O | C6H8N2O2
